US06420359B1
5,11-Dihydro-11-ethyl-2-fluoro-5-methyl-8-{2-{(1-oxido-4-quinolinyl)oxy}-ethyl}-6H-dipyrido[3,2-b:2′,3′-e] [l,4]diazepin-6-one
Solid mCPBA (457 mg, 2.12 mmol) was added to a solution of 5,11-dihydro-2-fluoro-11-ethyl-5-methyl-8-{2-(4-quinolinyloxy)ethyl}-6H-dipyrido[3,2-b:2′,3′-e][1,4]diazepin-6-one (470 mg, 1.06 mmol) in CH2Cl2 (10 mL). The mixture was stirred at room temperature for 13 h then was concentrated under reduced pressure. The residue was dissolved in CHCl3 (75 mL), the solution was successively washed with aqueous 10% Na2S2O3 (3×25 mL), aqueous saturated NaHCO3 (3×25 mL) and brine (25 mL), dried (MgSO4), filtered and concentrated under reduced pressure. The residue was purified by flash chromatography (CHCl3:MeOH, 19:1 to 9:1) to give the title compound (250 mg, 51% yield) as a white solid: MS (ESI) m/z 460 (MH)+.

reactant | mCPBA | 2.12 mmol, 457 mg | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | 5,11-dihydro-2-fluoro-11-ethyl-5-methyl-8-{2-(4-quinolinyloxy)ethyl}-6H-dipyrido[3,2-b:2′,3′-e][1,4]diazepin-6-one | 1.06 mmol, 470 mg | FC=1C=CC=2N(C(C3=C(N(C2N1)CC)N=CC(=C3)CCOC3=CC=NC1=CC=CC=C31)=O)C | C25H22FN5O2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 5,11-Dihydro-11-ethyl-2-fluoro-5-methyl-8-{2-{(1-oxido-4-quinolinyl)oxy}-ethyl}-6H-dipyrido[3,2-b:2′,3′-e] [l,4]diazepin-6-one | 250 mg, 51% yield | C(C)N1C2=C(N(C(C3=C1N=CC(=C3)CCOC3=CC=[N+](C1=CC=CC=C31)[O-])=O)C)C=CC(=N2)F | C25H22FN5O3
